US08580781B2
Preparation of 2-{3-[5-(3-aminopropyl)pyrimidin-2-yl]benzyl}-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one (“A285”)
49.3 70 mg (0.127 mmol) of tert-butyl [3-(2-{3-[6-oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]phenyl}pyrimidin-5-yl)propyl]carbamate are dissolved in 3 ml of dichloromethane, and 195 μl (2.54 mmol) of trifluoroacetic acid are added. The reaction mixture is stirred at room temperature for 15 h and evaporated. The residue is digested with diethyl ether and dried in vacuo; yield: 74 mg of “A285”; HPLC: Rt=2.63 min (method C); LC-MS: 452 (M+H).

reactant | tert-butyl [3-(2-{3-[6-oxo-3-(3,4,5-trifluorophenyl)-6H-pyridazin-1-ylmethyl]phenyl}pyrimidin-5-yl)propyl]carbamate | O=C1C=CC(=NN1CC=1C=C(C=CC1)C1=NC=C(C=N1)CCCNC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)F)F | C29H28F3N5O3
reactant | trifluoroacetic acid | 2.54 mmol, 195 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-{3-[5-(3-aminopropyl)pyrimidin-2-yl]benzyl}-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | NCCCC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C2=CC(=C(C(=C2)F)F)F)C=CC1 | C24H20F3N5O
